US08629271B2
b) tert-Butyl 9-benzyl-2,2-dimethyl-1-oxa-4,9-diazaspiro[5.5]undecane-4-carboxylate
Concentrated sulfuric acid (12 ml) was added to 1-benzyl-4-((2-methylallylamino)methyl)piperidin-4-ol (Example 271, step a) (2.2 g) and the mixture was allowed to stand for 2 hours at room temperature. The reaction mixture was treated with ice/water (100 mL) followed by solid sodium bicarbonate, portionwise, until the mixture was basic. Acetonitrile (50 mL) was added followed by BOC-anhydride (1.925 g) and the reaction mixture stirred at room temperature for 18 hours. The reaction mixture was extracted with ethyl acetate (×2) and the combined organics were dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure. The crude product was purified by flash silica chromatography, eluting with 1% methanol in dichloromethane switching to 1% methanol in dichloromethane with 1% triethylamine. Pure fractions were evaporated to dryness to afford the subtitled compound. Yield 0.8 g.

reactant | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-benzyl-4-((2-methylallylamino)methyl)piperidin-4-ol | C(C1=CC=CC=C1)N1CCC(CC1)(O)CNCC(=C)C | C17H26N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Acetonitrile | 50 mL | C(C)#N | C2H3N
product | tert-Butyl 9-benzyl-2,2-dimethyl-1-oxa-4,9-diazaspiro[5.5]undecane-4-carboxylate | C(C1=CC=CC=C1)N1CCC2(CN(CC(O2)(C)C)C(=O)OC(C)(C)C)CC1 | C22H34N2O3
